US04162246
2,2-Bis{4-[2-hydroxy-3-(7,7,9,9-tetramethyl-2,4-dioxo-1,3,8-triazaspiro[4.5]dec-3-yl)propoxy]phenyl}propane (Compound No. 1)
24.0 g of 7,7,9,9-tetramethyl-1,3,8-triazaspiro[4.5]decane-2,4-dione, 17.0 g of 2,2-bis[p-(2,3-epoxypropoxy)phenyl]propane and 0.5 g of potassium hydroxide were reacted in 400 ml of 50% v/v aqueous ethanol, following the procedure described in Example 1. The desired Compound No. 1 was obtained in the form of crystals melting at 117°-119° C.

reactant | 7,7,9,9-tetramethyl-1,3,8-triazaspiro[4.5]decane-2,4-dione | 24.0 g | CC1(CC2(C(NC(N2)=O)=O)CC(N1)(C)C)C | C11H19N3O2
reactant | 2,2-bis[p-(2,3-epoxypropoxy)phenyl]propane | 17.0 g | O1C(COC2=CC=C(C=C2)C(C)(C)C2=CC=C(C=C2)OCC2CO2)C1 | C21H24O4
reactant | potassium hydroxide | 0.5 g | [OH-].[K+]
solvent | ethanol | C(C)O | C2H6O
product | 2,2-Bis{4-[2-hydroxy-3-(7,7,9,9-tetramethyl-2,4-dioxo-1,3,8-triazaspiro[4.5]dec-3-yl)propoxy]phenyl}propane | OC(COC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)OCC(CN1C(NC2(C1=O)CC(NC(C2)(C)C)(C)C)=O)O)CN2C(NC1(C2=O)CC(NC(C1)(C)C)(C)C)=O | C43H62N6O8
